US07943748B2
(1) Synthesis of 1-(2,2-Dimethoxyethylsulfanyl)-4-methoxy-benzene
Under a nitrogen atmosphere, 4-methoxybenzenethiol (3.07 ml, 25.0 mmol) and 2-bromo-1,1-dimethoxyethane (3.25 ml, 27.5 mmol) were added to a sodium methoxide methanol solution (0.5 M, 80.0 ml, 40.0 mmol) under cooling with ice. The reaction mixture was stirred at the same temperature for 10 minutes, and then heated to reflux for five hours. The reaction mixture was concentrated under reduced pressure and cold water was added. The resulting mixture was extracted with ether, and the organic layer was washed with a saturated sodium chloride aqueous solution and then dried with sodium sulfate. After filtration, the solvent was distilled under reduced pressure, and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:20)] to obtain the title compound (5.30 g, 93%).

reactant | 4-methoxybenzenethiol | 25.0 mmol, 3.07 ml | COC1=CC=C(C=C1)S | C7H8OS
reactant | 2-bromo-1,1-dimethoxyethane | 27.5 mmol, 3.25 ml | BrCC(OC)OC | C4H9BrO2
reactant | sodium methoxide methanol | 40.0 mmol, 0.5 M, 80.0 ml | CO.C[O-].[Na+]
product | 1-(2,2-Dimethoxyethylsulfanyl)-4-methoxy-benzene | 5.30 g, 93% | COC(CSC1=CC=C(C=C1)OC)OC | C11H16O3S
